US05773442
350 mg of ethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate hydrochloride was dissolved in 20 ml of ethanol, and 2.5 ml of an aqueous solution of 1N-sodium hydroxide was added thereto and stirred at room temperature for 5 hours. 2.5 ml of 1N-hydrochloric acid was added to the reaction liquid, from which the solvent was removed by distillation. The resulting residue was purified by HP-20 column chromatography (using a gradient eluent of water to water/ethanol=50/1) to obtain 180 mg of 4-[4-(4-amidinophenyl)-1-piperazinyl)-1-carboxymethyl-3-piperidinepropionic acid hydrochloride.

reactant | ethyl 4-[4-(4-amidinophenyl)-1-piperazinyl]-1-ethoxycarbonylmethyl-3-piperidinepropionate hydrochloride | 350 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1CCN(CC1)C1C(CN(CC1)CC(=O)OCC)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[4-(4-amidinophenyl)-1-piperazinyl)-1-carboxymethyl-3-piperidinepropionic acid hydrochloride | 180 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1CCN(CC1)C1C(CN(CC1)CC(=O)O)CCC(=O)O | InChI=1S/C21H31N5O4.ClH/c22-21(23)15-1-4-17(5-2-15)25-9-11-26(12-10-25)18-7-8-24(14-20(29)30)13-16(18)3-6-19(27)28;/h1-2,4-5,16,18H,3,6-14H2,(H3,22,23)(H,27,28)(H,29,30);1H
